US05962462
Step 1: N-Methoxy-N-methyl-2-(S)-(3,4-dichlorophenyl)-4-pentenamide
A mixture of 306 mg (1.25 mmol) of (2S)-(3,4-dichlorophenyl)-4-pentenoic acid (prepared according to the procedure of Hale, J. J.; Finke, P. E.; MacCoss, M. Bioorganic & Medicinal Chemistry Letters 1993,3, 319-322) and 202 mg (1.50 mmol) of 1-hydroxybenzotriazole hydrate in 10 mL of methylene chloride was cooled to 0° C. and treated with 287 mg (1.50 mmol) of 1-(3-dimethyl-aminopropyl)-3-ethylcarbodiimide. The cooling bath was removed and after 45 min. a solution of 365 mg (3.75 mmol) of N,O-dimethyl-hydroxylamine hydrochloride and 522 μl (3.75 mmol) of triethylamine in 10 mL of methylene chloride was added via cannula. The mixture was then stirred at 22° C. for 4 hours and then quenched with 10 mL of water and diluted with 8 mL of methylene chloride. The layers were separated and the aqueous layer was extracted with methylene chloride (2×10 mL). The combined organic layers were washed with 10 mL of brine, dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography on 75 g of silica gel using 1:9 v/v ethyl acetate/hexane as the eluant afforded 319 mg (89%) of the title compound as a clear oil. 1H NMR (400 MHz, CDCl3) δ 2.40 (pentet, 1H), 2.75 (pentet, 1H), 3.13 (s, 3H), 3.52 (s, 3H), 3.99-4.01 (m, 1H), 4.96-5.05 (m, 2H), 5.63-5.70 (m, 1H), 7.15 (dd, 1H), 7.35 (d, 1H), 7.41 (d, 1H). Mass Spectrum (FAB): m/z 290 (M+H, 37Cl+35Cl isotope, 50%), 288 (M+H, 37Cl+37Cl isotope, 100%).

reactant | (2S)-(3,4-dichlorophenyl)-4-pentenoic acid | 1.25 mmol, 306 mg | ClC=1C=C(C=CC1Cl)[C@@H](C(=O)O)CC=C | C11H10Cl2O2
reactant | 1-hydroxybenzotriazole hydrate | 1.50 mmol, 202 mg | O.ON1N=NC2=C1C=CC=C2
reactant | N,O-dimethyl-hydroxylamine hydrochloride | 3.75 mmol, 365 mg | Cl.CNOC
reactant | triethylamine | 3.75 mmol, 522 μl | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | N-Methoxy-N-methyl-2-(S)-(3,4-dichlorophenyl)-4-pentenamide | 319 mg, 89% | CON(C([C@@H](CC=C)C1=CC(=C(C=C1)Cl)Cl)=O)C | C13H15Cl2NO2
